US05091533
4-cyanophenol (1.07 gm, 9 mmoles) was added in one portion to 50% sodium hydride dispersion (435 mgs; 9 mmoles) in dimethylformamide (30 mL) under nitrogen atmosphere. After stirring for 30 minutes, a solution of 6-(3-bromopropyl)-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran, E88, (1 gm, 2.2 mmoles) in dimethylformamide (5 mL) was added. The mixture was stirred at room temperature for 18 hours. The mixture was poured into excess 20% citric acid solution and extracted with diethyl ether. The ether layer was backwashed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed in silica gel using 15% ethylacetate in hexane as eluent to yield 1.06 gm (95%) as an oil of 6-[3-(4-cyanophenoxy)propyl]-5-benzyloxy-2(2-phenylethyl)-2,3-dihydrobenzofuran, E22, m.p. 154°-157° C.

reactant | 4-cyanophenol | 9 mmoles, 1.07 gm | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 6-(3-bromopropyl)-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | BrCCCC1=CC2=C(CC(O2)CCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1 | C26H27BrO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-[3-(4-cyanophenoxy)propyl]-5-benzyloxy-2(2-phenylethyl)-2,3-dihydrobenzofuran | C(#N)C1=CC=C(OCCCC2=CC3=C(CC(O3)CCC3=CC=CC=C3)C=C2OCC2=CC=CC=C2)C=C1 | C33H31NO3
